US07935699B2
Hydroxy-cyclopropanecarboxylic acid methyl ester (5.07 g, 43.71 mmol) was dissolved in methylene chloride (75 mL) and 3,4-dihydro-2H-pyran (3.86 g, 45.90 mmol) was added followed by pyridinium-p-toluene-sulfonic acid (1.10 g, 4.37 mmol). The reaction stirred at 25° C. for 3 h. The reaction was concentrated in vacuo to give a clear oil. The oil was dissolved in diethyl ether (75 mL), washed with saturated aqueous brine solution (25 mL), dried over sodium sulfate and concentrated in vacuo to an oil. The oil was passed through a plug of silica gel (Merck silica gel 60, 40-63 μm; 100% ethyl acetate) to afford 1-(tetrahydro-pyran-2-yloxy)-cyclopropanecarboxylic acid methyl ester (7.49 g, 86%) as a clear oil: H1-NMR (400 MHz, CDCl3) δ 1.14-1.42 (4H, m), 1.88-3.46 (6H, m), 3.46-3.54 (1H, m), 3.70-3.72 (3H, m), 3.82-3.90 (1H, m), 4.81-4.96 (1H, m).

reactant | Hydroxy-cyclopropanecarboxylic acid methyl ester | 43.71 mmol, 5.07 g | COC(=O)C1(CC1)O | C5H8O3
reactant | 3,4-dihydro-2H-pyran | 45.90 mmol, 3.86 g | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluene-sulfonic acid | 4.37 mmol, 1.10 g | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | 1-(tetrahydro-pyran-2-yloxy)-cyclopropanecarboxylic acid methyl ester | 7.49 g, 86% | COC(=O)C1(CC1)OC1OCCCC1 | C10H16O4
